US05654429
3-amino-2-chloro-4-methylthiomethylpyridine prepared above in B (90.2 mg, 0.48 mmoles) was dissolved in trifluoroacetic acid (450 μl). To the resulting solution was added dimethylsulfate (57.1 mg, 0.452 mmoles) at ambient temperature and allowed to stand at ambient temperature for 68 hours, to produce an alkylation solution. A proton NMR spectrum of the alkylation solution revealed that complete alkylation had ocurred. The alkylation solution was then evaporated to dryness and the resultant residue was twice dissolved in methanol and evaporated to dryness, to produce an amber oil weighing 306.8 mg. The oil was dissolved in methanol (500 μl) and stirred in an atmosphere of nitrogen at ambient temperature while zinc dust (63 mg, 0.98 mmoles) was added portionwise over two hours. After complete addition of the zinc dust, the resultant mixture was allowed to continue stirring for 21 hours. An aliquot of the mixture was then removed for analysis by thin layer chromatography (silica gel; 3% methanol/dichloromethane as eluant) which revealed highly selective conversion to 3-amino-2-chloro-4-methylpyridine had occurred. The mixture was then filtered and the filtrate was concentrated to produce a dry residue. The residue was partitioned between ether and water (2 ml each). The layers were separated and the aqueous phase was extracted three additional times with 2 ml portions of ether. The ethereal extracts were combined and dried with anhydrous sodium sulfate, filtered and concentrated at reduced pressure to give 3-amino-2-chloro-4-methylpyridine as an oil weighing 66.6 mg. The oil solidified on standing. Product identity is confirmed by comparison of its proton NMR and TLC chromatographic properties (5% ethylacetate/dichloromethane, R =0.45; 3% methanol/dichloromethane, R =0.70) with those of an authentic sample.

reactant | 3-amino-2-chloro-4-methylthiomethylpyridine | NC=1C(=NC=CC1CSC)Cl | C7H9ClN2S
reactant | dimethylsulfate | 0.452 mmoles, 57.1 mg | COS(=O)(=O)OC | C2H6O4S
solvent | trifluoroacetic acid | 450 μl | FC(C(=O)O)(F)F | C2HF3O2
solvent | methanol | 500 μl | CO | CH4O
catalyst | zinc | 0.98 mmoles, 63 mg | [Zn] | Zn
product | 3-amino-2-chloro-4-methylpyridine | NC=1C(=NC=CC1C)Cl | C6H7ClN2
